US07910740B2
[5-(3,4-Dichloro-benzyl)-4-methyl-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
The title compound was prepared in analogy to example 1 step e) from crude 2-chloro-1-(3,4-dichloro-phenyl)-butan-3-one and 53 mg (0.2 mmol) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea in ethanol (1 ml). The crude product was purified on silica gel with methylene chloride/methanol 9/1 yielding 85 mg (93%) of the title compound as a brown solid. MS ISP (m/e): 4.59.3/461.2/460.3/462.2 (100/74/35/20) (M+H)+. 1H NMR (CDCl3, 300 MHz): δ (ppm)=7.63 (s, 1H), 7.37 (d, 1H), 7.27 (s, 1H), 7.21 (s, 1H), 7.15 (d, 1H), 7.03 (d, 1H), 6.89 (d, 1H), 6.86 (s, 1H), 3.93 (s, 2H), 3.83 (s, 3H), 2.29 (s, 3H), 2.27 (s, 3H).

reactant | 2-chloro-1-(3,4-dichloro-phenyl)-butan-3-one | ClC(CC1=CC(=C(C=C1)Cl)Cl)C(C)=O | C10H9Cl3O
reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.2 mmol, 53 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | [5-(3,4-Dichloro-benzyl)-4-methyl-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | ClC=1C=C(CC2=C(N=C(S2)NC2=CC(=C(C=C2)N2C=NC(=C2)C)OC)C)C=CC1Cl | C22H20Cl2N4OS
